US06117881
1-(4-Chlorophenyl)-2,3,4,9-tetrahydro-1H-β-carboline
This product was prepared using the same procedure as for intermediate 1 with tryptamine (5.0 g, 30 mmol), 4-chlorobenzaldehyde (4.6 g, 1 equiv.) and TFA (4.6 mL, 2 equiv.) to give the title compound (4.16 g, 49%) as a white powder.

reactant | tryptamine | 30 mmol, 5.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 4-chlorobenzaldehyde | 4.6 g, 1 equiv. | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | TFA | 4.6 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-Chlorophenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 4.16 g, 49% | ClC1=CC=C(C=C1)C1NCCC=2C3=CC=CC=C3NC12 | C17H15ClN2
